* Schematics Netlist *



C_C17         $N_0001 $N_0002  10u  
Q_Q10         $N_0003 $N_0002 $N_0004 BC556B 
Q_Q14         $N_0005 $N_0003 $N_0006 BD241C
Q_Q13         $N_0008 $N_0007 $N_0004 BC556B 
C_C18         0 $N_0009  470u  
V_V7         $N_0010 0 12V
C_C24         $N_0005 $N_0011  470n  
R_R27         $N_0004 $N_0010  2.7k  
C_C23         $N_0012 $N_0013  220u  
C_C20         $N_0003 $N_0005  100p  
X_Q12         $N_0008 $N_0005 $N_0014 TIP147
C_C21         0 $N_0015  1u  
C_C22         0 $N_0015  220u  
C_C26         $N_0008 0  1u  
C_C27         $N_0008 0  220u  
R_R21         $N_0016 $N_0012  1  
R_R26         $N_0010 $N_0015  2.2k  
X_Q11         $N_0015 $N_0011 $N_0017 TIP142
R_R22         $N_0013 $N_0015  1k  
R_R20         $N_0013 $N_0011  1k  
R_R29         0 $N_0002  22k  
D_D57         $N_0018 $N_0019 D1N4007 
D_D56         $N_0020 $N_0018 D1N4007 
D_D55         $N_0011 $N_0020 D1N4007 
R_R25         $N_0009 $N_0007  100  
R_R28         $N_0007 $N_0012  8.2k  
C_C25         0 $N_0016  100n  
R_R23         $N_0012 $N_0017  0.44  
R_R24         $N_0014 $N_0012  0.33  
C_C28         $N_0008 $N_0006  10u  
D_D58         $N_0019 $N_0005 D1N4007 
R_R41         $N_0021 0  1k  
C_C16         0 $N_0010  220n  
R_R42         0 $N_0012  {Rn}  
R_R30         $N_0008 $N_0003  733  
V_V8         $N_0015 0 20V
V_V9         0 $N_0008 20V
R_R31         $N_0008 $N_0006  33  
V_V16         $N_0021 0 DC 0 AC 0
+PULSE -50mV 50mV 0 0 0 50us 100us
V_V17         $N_0001 0 DC 0 AC 50mV
+SIN 0 50mV 1k 0 0 0
C_C30         $N_0007 $N_0005  220p  
