* Schematics Netlist *



C_C17         $N_0001 $N_0002  10u  
Q_Q10         $N_0003 $N_0002 $N_0004 BC556B 
Q_Q14         $N_0005 $N_0003 $N_0006 BD241C
Q_Q13         $N_0008 $N_0007 $N_0004 BC556B 
V_V7         $N_0009 0 12V
R_R27         $N_0004 $N_0009  2.7k  
X_Q12         $N_0008 $N_0005 $N_0010 TIP147
C_C21         0 $N_0011  1u  
C_C22         0 $N_0011  220u  
R_R26         $N_0009 $N_0011  2.2k  
X_Q11         $N_0011 $N_0012 $N_0013 TIP142
R_R22         $N_0014 $N_0011  1k  
R_R20         $N_0014 $N_0012  1k  
D_D57         $N_0015 $N_0016 D1N4007 
D_D56         $N_0017 $N_0015 D1N4007 
D_D55         $N_0012 $N_0017 D1N4007 
R_R25         $N_0018 $N_0007  100  
R_R28         $N_0007 $N_0019  8.2k  
R_R23         $N_0019 $N_0013  0.44  
R_R24         $N_0010 $N_0019  0.33  
C_C28         $N_0008 $N_0006  10u  
D_D58         $N_0016 $N_0005 D1N4007 
C_C16         0 $N_0009  220n  
R_R30         $N_0008 $N_0003  733  
V_V8         $N_0011 0 20V
V_V9         0 $N_0008 20V
R_R31         $N_0008 $N_0006  33  
C_C27         $N_0008 0  220u  
C_C26         $N_0008 0  1u  
L_L3         $N_0020 $N_0021  12.5m  
C_C33         $N_0021 $N_0020  800u  
R_R45         $N_0021 $N_0020  18  
L_L4         $N_0021 $N_0022  0.3m  
R_R46         0 $N_0022  3  
R_R47         0 $N_0019  3  
C_C35         $N_0019 $N_0014  220u  
C_C24         $N_0005 $N_0012  470n  
C_C18         0 $N_0018  470u  
C_C25         0 $N_0023  0.68u  
R_R29         0 $N_0002  22k  
R_R21         $N_0023 $N_0019  1  
C_C30         $N_0007 $N_0005  220p  
C_C20         $N_0003 $N_0005  1.7n  
V_V26         $N_0020 0 DC 0 AC 0
+PULSE -50mV 50mV 0 0 0 5ms 10ms
V_V27         $N_0001 0 DC 0 AC 50mV
+SIN 0 50mV 1k 0 0 0
